US06313119B1
e) (2S)-3-(4-(2-Methoxycarbonyl-ethyl)-benzoylamino)-2-(naphthalene-1-sulfonylamino)-propionic acid tert-butyl ester
0.123 g (0.35 mmol) of (2S)-2-amino-3-(4-(2-methoxycarbonyl-ethyl)-benzoylamino)-propionic acid tert-butyl ester was dissolved in 2 ml of dimethylformamide and treated with 0.196 ml (1.4 mmol) of triethylamine and 0.159 g (0.7 mmol) of 1-naphthalenesulfonyl chloride. The solution was stirred for 4 hours at room temperature. The solvent was removed in vacuo, the residue was dissolved in dichloromethane and the solution was washed three times with water. The organic phase was dried with sodium sulfate, filtered and the solvent was removed in vacuo. The residue was chromatographed on silica gel eluting with n-heptane/ethyl acetate (1/1). Yield 47 mg. MS (ES+): m/e=541.3 (M+H+).

reactant | (2S)-2-amino-3-(4-(2-methoxycarbonyl-ethyl)-benzoylamino)-propionic acid tert-butyl ester | 0.35 mmol, 0.123 g | C(C)(C)(C)OC([C@H](CNC(C1=CC=C(C=C1)CCC(=O)OC)=O)N)=O | C18H26N2O5
reactant | triethylamine | 1.4 mmol, 0.196 ml | C(C)N(CC)CC | C6H15N
reactant | 1-naphthalenesulfonyl chloride | 0.7 mmol, 0.159 g | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (2S)-3-(4-(2-Methoxycarbonyl-ethyl)-benzoylamino)-2-(naphthalene-1-sulfonylamino)-propionic acid tert-butyl ester | C(C)(C)(C)OC([C@H](CNC(C1=CC=C(C=C1)CCC(=O)OC)=O)NS(=O)(=O)C1=CC=CC2=CC=CC=C12)=O | C28H32N2O7S
